US04064273
To a suspension of 8.8 g. of 50% sodium hydride (mineral oil dispersion) in 320 ml. of dry dimethylacetamide is added, in portions over 15 minutes with vigorous stirring, 32 g. of 3,5-di-tertiary butylphenol, during which the reaction mixture is cooled with an icebath to moderate the internal temperature. The reaction mixture is then stirred at room temperature for 1 hour, after which is added 75.2 g. of dibromobenzene and 800 mg. of copper powder. The resultant mixture is refluxed for 8 hours, after which time it is cooled and the dimethylacetamide is removed in vacuo. The resultant residue is extracted several times with methylene chloride and the insoluble copper filtered off. The combined methylene chloride extracts are washed two times with water, dried over sodium sulfate, filtered, evaporated in vacuo to dryness and the residue recrystallized from ethanol to obtain 1-(3,5-di-tertiary butylphenoxy)-4-bromobenzene, m.p. 98°-100° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-di-tertiary butylphenol | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)O | C14H22O
reactant | dibromobenzene | BrC1=C(C=CC=C1)Br | C6H4Br2
catalyst | copper | [Cu] | Cu
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-(3,5-di-tertiary butylphenoxy)-4-bromobenzene | C(C)(C)(C)C=1C=C(OC2=CC=C(C=C2)Br)C=C(C1)C(C)(C)C | C20H25BrO
